US08957177B2
Hexanediamine Lactamide Synthesis
149 g of L-lactide (from PURAC) and 120 g of hexanediamine (from Sigma-Aldrich) were each added to a three-neck, 2 L flask fitted with a condenser and nitrogen purge. 484 mL of THF solvent were then poured into the flask along with a magnetic stir bar. The flask was then placed in a heating mantle atop a stir plate. A temperature probe, connected to a J-Kem temperature controller, used to regulate the mantle's heat output, was inserted into the mixture and the flask was sealed. Mixing and heating at an initial set point of 25° C. were begun simultaneously. The set point was increased by an additional 10-15° C. when it was matched or exceeded by the actual temperature of the solution. This action was repeated up to a 60° C. limit, owing to the boiling point of THF. The 60° C. temperature was maintained for six hours. Product conversion was tracked and confirmed by FT-IR spectra (FT-IR spectra was obtained using a Nicolet 6700 FT-IR Spectrometer available from Thermo Scientific). The reaction was stopped when no significant change was observed in consecutive sample scans. Afterwards, the flask was removed from the heating mantle and negative pressure was applied for thirty minutes to remove the solvent. 269 g of an off-white solid was recovered and placed in storage.

reactant | L-lactide | 149 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | hexanediamine | 120 g | C(CCCCC)(N)N | C6H16N2
product | Hexanediamine Lactamide | C(C(O)C)(=O)N.C(CCCCC)(N)N | InChI=1S/C6H16N2.C3H7NO2/c1-2-3-4-5-6(7)8;1-2(5)3(4)6/h6H,2-5,7-8H2,1H3;2,5H,1H3,(H2,4,6)
